US08957252B2
The second method describes the process, wherein D-serine is protected with benzyloxycarbonyl chloride to give N-Benzyloxycarbonyl-D-serine of Formula-IV. The compound of Formula-IV on alkylation with methyl iodide in the presence of silver oxide and solvent acetonitrile yields the compound (2R)-methyl 2-(benzyloxycarbonylamino)-3-methoxypropanoate of Formula-V, and which is purified by flash column chromatography using silica gel and methanol-chloroform eluent before the next stage. The compound of Formula-V is hydrolyzed to give (2R)-2-(benzyloxycarbonylamino)-3-methoxypropanoic acid of Formula-VI. The compound of Formula-VI is cooled to −78° C. in tetrahydrofuran and reacted with isobutyl chloroformate in presence of N-methylmorpholine followed by reaction with benzylamine to yield the compound (2R)-benzyl 1-(benzylamino)-3-methoxy-1-oxopropan-2-ylcarbamate of Formula-VII. The compound of Formula-VII on hydrogenation using palladium on carbon gives deprotected compound (2R)-2-amino-N-benzyl-3-methoxy-propanamide of Formula-VIII. The compound of Formula-VIII is acetylated using acetic anhydride in the presence of solvent pyridine to give crude Lacosamide of the Formula-I. The crude compound is purified by flash column chromatography to give pure Lacosamide.

reactant | D-serine | N[C@H](CO)C(=O)O | C3H7NO3
reactant | benzyloxycarbonyl chloride | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
product | N-Benzyloxycarbonyl-D-serine | C(C1=CC=CC=C1)OC(=O)N[C@H](CO)C(=O)O | C11H13NO5
